US05755994
2-Fluoro-4-(propoxymethyl)benzoic acid (1.5 g, 7.1 mmol) was mixed with thionyl chloride (1.3 g, 10.6 mmol), pyridine (0.1 ml) and toluene (3 ml), followed by reacting them at 80° C. for 2 hours, and distilling off superfluous thionyl chloride and toluene under reduced pressure, to obtain raw 2-fluoro-4-(propoxymethyl)benzoyl chloride.

reactant | 2-Fluoro-4-(propoxymethyl)benzoic acid | 7.1 mmol, 1.5 g | FC1=C(C(=O)O)C=CC(=C1)COCCC | C11H13FO3
reactant | thionyl chloride | 10.6 mmol, 1.3 g | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 0.1 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 2-fluoro-4-(propoxymethyl)benzoyl chloride | FC1=C(C(=O)Cl)C=CC(=C1)COCCC | C11H12ClFO2
